US04980356
m-Chloroperbenzoic acid (0.6 g) is added in the course of approximately 10 minutes to 2-imino-3-(2-phenylthioethyl)-6-trifluoromethoxybenzothiazoline (1.3 g) in absolute ethanol (20 cc) cooled to 0° C. The reaction is continued for 3 hours at a temperature in the region of 20° C. The reaction medium is concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) and the residue obtained purified by chromatography on a silica column with ethyl acetate as eluent. (RS)-2-Imino-3-(2-phenylsulphinylethyl)-6-trifluoromethoxybenzothiazoline (0.7 g) is obtained in the form of a yellowish oil, which is converted to a hydrochloride, m.p. 210° C.

reactant | m-Chloroperbenzoic acid | 0.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-imino-3-(2-phenylthioethyl)-6-trifluoromethoxybenzothiazoline | 1.3 g | N=C1SC2=C(N1CCSC1=CC=CC=C1)C=CC(=C2)OC(F)(F)F | C16H13F3N2OS2
solvent | ethanol | 20 cc | C(C)O | C2H6O
product | (RS)-2-Imino-3-(2-phenylsulphinylethyl)-6-trifluoromethoxybenzothiazoline | 0.7 g | N=C1SC2=C(N1CCS(=O)C1=CC=CC=C1)C=CC(=C2)OC(F)(F)F | C16H13F3N2O2S2
